US07098219B2
5-Amino-1-(cyclopropyl)-6,8-difluoro-1,4-dihydro-7-(3′-aminomethyl-4′-hydroxy-piperidin-1-yl)-4-oxo-quinoline-3-carboxylic acid
The condensation of 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid with 3-aminomethyl-4-hydroxy-piperidine was carried out in a similar manner as described in example 1, gave the titled product. Yield 52.8%, m.p 202–04° C., C19H22F2N4O4, m/z 409 (M+1).

reactant | 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | 3-aminomethyl-4-hydroxy-piperidine | NCC1CNCCC1O | C6H14N2O
product | 5-Amino-1-(cyclopropyl)-6,8-difluoro-1,4-dihydro-7-(3′-aminomethyl-4′-hydroxy-piperidin-1-yl)-4-oxo-quinoline-3-carboxylic acid | Yield 52.8% | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(C(CC1)O)CN)F)C1CC1)C(=O)O)=O | C19H22F2N4O4
